US07612099B2
N-(2-{2-[(3,5-Difluoro-phenyl)-(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one (Lit. 11) was reacted with 3,5-difluoro-benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide to give the title compound as a yellow solid. MS: 468.0 ([M+H]+).

reactant | 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1C(C)C)=O | C7H11NO2
reactant | 3,5-difluoro-benzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(3,5-Difluoro-phenyl)-(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide | FC=1C=C(C=C(C1)F)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C=1C(NC(C1O)C(C)C)=O | C26H27F2N3O3
